US08222246B2
d) 6-(5-Hydroxymethyl-3-phenyl-isoxazol-4-ylmethoxy)-N-isopropyl-nicotinamide
Trimethylaluminum (4.4 mL of a 2M solution in hexane, 8.8 mmol) was slowly added to a solution of isopropylamine (0.76 mL, 8.9 mmol) in dioxane (7.5 mL) and stirred at room temperature for 1 h. Then a solution of 6-[5-(tert-butyl-dimethyl-silanyloxymethyl)-3-phenyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (1.0 g, 2.2 mmol) in dioxane (7.5 mL) was added dropwise. The mixture was stirred at 90° C. for 2 h. After cooling to room temperature and extractive workup (ethyl acetate/aqueous saturated Seignette salt solution) the organic phase was dried (Na2SO4) and filtered over a silica pad. The solvent was evaporated to furnish an intermediate which was dissolved in a tetrabutylammonium fluoride solution (2 mL of a 1M in THF). After 1 h the reaction mixture was extractively worked up (ethyl acetate/aqueous saturated citric acid). The organic phase was dried over sodium sulfate, filtred and concentrated and then purified by HPLC (Chiralpak AD, heptane/ethanol) to afford the title compound as a colorless oil (0.15 g, 18%). MS: m/e=368.3 [M+H]+.

reactant | Trimethylaluminum | C[Al](C)C
reactant | isopropylamine | 8.9 mmol, 0.76 mL | C(C)(C)N | C3H9N
reactant | 6-[5-(tert-butyl-dimethyl-silanyloxymethyl)-3-phenyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 2.2 mmol, 1.0 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C(O[SiH2]C(C)(C)C)(C)C)C1=CC=CC=C1)=O | C24H30N2O5Si
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | dioxane | 7.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 7.5 mL | O1CCOCC1 | C4H8O2
solvent | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | 6-(5-Hydroxymethyl-3-phenyl-isoxazol-4-ylmethoxy)-N-isopropyl-nicotinamide | 0.15 g, 18% | OCC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)NC(C)C)C=C1 | C20H21N3O4
